datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)C=C1.CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1[C:11](=[CH:10]C2=CC=CC=C2)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:64]=[CH:65]1>>CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:12]1=[C:11]([CH:10](C2=CC=CC=C2)[CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:41]=[C:42](C2=CC=CC=C2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:64]=[CH:65]1 10,11=10,20;12=11,12"
"C1=CC=C([P:71](C2=CC=CC=C2)([CH-:10][C:61]#[N:62])=[O:72])C=C1.C1COC2(CC[C:20](=[O:21])CC2)O1>>C1=CC=C([P:71](C2=CC=CC=C2)([CH:10]([C:20]2([O-:21])CCC3(CC2)OCCO3)[C:61]#[N:62])=[O:72])C=C1 10=20;20,21=21"
"CC[O:72][C:61]([C-:10]([C:81](=[O:82])[O:92]CC)[C:101](C1=CC=CC=C1)=[O:102])=[O:62].CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CC[O:72][C:61]([C:10]([CH:20]([CH:21]=[C:22](C1=[N+](C2=C(F)C(F)=C(F)C(F)=C2F)C=CN1C)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:81](=[O:82])[O:92]CC)[C:101](C1=CC=CC=C1)=[O:102])=[O:62] 10=20;20,21=21,22;22,23=23"
"CC1CCC[NH:10]1.COC1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1>>COC1=CC=C([C:22]2=[CH:21][CH:20]([NH+:10]3CCCC3C)[C:31]3=[C:32](C=CC=C3)[O:23]2)C=C1 10=20;20,21=21,22;22,23=23"
"C1CC[C:11](=[CH2:10])CC1.[C+:20]1([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2>>C1CC[C+:11]([CH2:10][C:20]2([C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)CC1 10,11=10,20"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1.[C:10](=[C:11]=[N-:12])([C:61]#[N:62])[C:73]1=[CH:74][CH:75]=[CH:76][CH:84]=[CH:85]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10]([C:11]#[N:12])([C:61]#[N:62])[C:73]2=[CH:74][CH:75]=[CH:76][CH:84]=[CH:85]2)[C:21](C[N+]2=CC=C(N(C)C)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[O:33][C:22](=[O:23])[C:21]1=[CH2:20].CC(C)(C)[C@H]1CC[N:12]2C3=C(C=CC=C3)[S:62][C:11]2=[N:10]1>>CC(C)(C)[C@H]1CC[N+:12]2=[C:11]([N:10]1[CH2:20][C:21]1=[C:22]([O-:23])[O:33]CC1)[S:62]C1=C2C=CC=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:92][C:61]([C-:10](F)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62].Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>CC[O:92][C:61]([C:10](F)([CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62] 10=20;20,21=21"
"C/[CH:10]=[CH:11]/[N:12]1CCOCC1.Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[CH:10]([CH:11]=[N+:12]1CCOCC1)[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Cl)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1 10,11=10,20;12=11,12"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2.[H]/[C:10](=[C:11](/[O-:12])[O:61]CC)[C:72](=[O:73])[O:83]CC>>[H][C:10]([C:11](=[O:12])[O:61]CC)([CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C12CCCC2)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:72](=[O:73])[O:83]CC 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCOCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)CCO1.CCC[C:11]1([H:10])CC[CH:13]=[CH:12]1>>C1CN([C:34]2=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]3=[CH:42][CH:43]=[C:44](N4CCOCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)CCO1.CCC[C:11]1=[CH:12][CH+:13]CC1 10,11=10,20;12,13=11,12"
"CCCC[Si](CCCC)(CCCC)[C:13]1=[CH:12][CH:11]=[CH:10][O:14]1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1>>CCCC[Si](CCCC)(CCCC)[C:13]1=[O+:14][CH:10]([CH:20]([CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2/C=C/C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:11]=[CH:12]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C[C:11]1=[N:10]CC[N:12]1[C:63](C)=[O:64].FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[S:32]1(=[O:33])=[O:34]>>C1=CC2=C(C=C1)[S:32](=[O:33])(=[O:34])[N:21]=[C:22]2[O-:23].C[C:11]1=[N+:12]([C:63](C)=[O:64])CC[N:10]1[S:20]C(F)(F)F 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC(C)=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C(C)=C1.CC[O:72][C:61]([C-:10]([C:81](=[O:82])[O:92]CC)[C:101](C1=CC=CC=C1)=[O:102])=[O:62]>>CC[O:72][C:61]([C:10]([CH:20]([CH:21]=[C:22](C1=[N+](C2=C(C)C=C(C)C=C2C)C=CN1C)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:81](=[O:82])[O:92]CC)[C:101](C1=CC=CC=C1)=[O:102])=[O:62] 10=20;20,21=21,22;22,23=23"
